US06069156
To a solution of methyl 1-acetyl-2-(3-methoxycarbonylpropyl)indole-6-carboxylate (2.34 g) in methanol (20 ml) was added powdered potassium carbonate (1.04 g), and the mixture was stirred under reflux for 10 minutes. The resulting mixture was evaporated in vacuo and the residue was acidified with 1N hydrochloric acid and extracted with chloroform. The organic phase was washed with aqueous sodium bicarbonate and brine, dried over sodium sulfate and then evaporated in vacuo. The residue was triturated with ether to give methyl 2-(3-methoxycarbonylpropyl)indole-6-carboxylate (1.23 g) as solid.

reactant | methyl 1-acetyl-2-(3-methoxycarbonylpropyl)indole-6-carboxylate | 2.34 g | C(C)(=O)N1C(=CC2=CC=C(C=C12)C(=O)OC)CCCC(=O)OC | C17H19NO5
reactant | potassium carbonate | 1.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | methyl 2-(3-methoxycarbonylpropyl)indole-6-carboxylate | 1.23 g | COC(=O)CCCC=1NC2=CC(=CC=C2C1)C(=O)OC | C15H17NO4
